US06211170B1
Iodine (4.25 g, 16.7 mmol) was added to a solution of 1-(tert-butyldimethylsilyl)-4(R)-(hydroxymethyl)azetidin-2-one (2.25 g, 10.47 mmol), Ph3P (5.48 g, 20.93 mmol) and imidazole (1.64 g, 24.07 mmol) in MeCN (100 mL) at 0°. After stirring at room temperature for four days, the mixture was concentrated and suspended in EtOAc-hexane (1:1). The suspension was filtered through a silica gel pad and washed with EtOAc-hexane (1:1). Concentration of the filtrate and purification by flash chromatography (SiO2, 10% EtOAc-hexane) afforded pure 1-(tert-butyldimethylsilyl)-4(R)-(iodomethyl)azetidin-2-one as a white solid (2.73 g, 80% yield). 1H NMR (400 MHz, CDCl3) δ 3.72-3.66 (m, 1H), 3.50 (ddd, J=9.8, 3.2, 0.6 Hz, 1H), 3.21 (ddd, J=15.6, 5.4, 0.6 Hz, 1H), 3.11 (dd, J=9.8, 9.8 Hz, 1H), 2.76 (dd, J=15.6, 2.5 Hz, 1H), 0.96 (s, 9H), 0.27 (s, 3H), 0.22 (s, 3H).

reactant | Iodine | 16.7 mmol, 4.25 g | II | I2
reactant | 1-(tert-butyldimethylsilyl)-4(R)-(hydroxymethyl)azetidin-2-one | 10.47 mmol, 2.25 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CO)=O | C10H21NO2Si
reactant | Ph3P | 20.93 mmol, 5.48 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | imidazole | 24.07 mmol, 1.64 g | N1C=NC=C1 | C3H4N2
solvent | MeCN | 100 mL | CC#N | C2H3N
product | 1-(tert-butyldimethylsilyl)-4(R)-(iodomethyl)azetidin-2-one | 2.73 g, 80% yield | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CI)=O | C10H20INOSi
